US08580762B2
Step 7: Synthesis of 1-((3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)methyl)-3-(4-(tert-butyl)phenyl)urea
To a solution of 9-((3aR,4R,6R,6aR)-6-(((3-(aminomethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine in DCM (4 ml) was added 1-tert-butyl-4-isocyanatobenzene (37 mg). The mixture was stirred at RT for 1 h. The mixture was concentrated and purified via preparative-TLC (DCM:MeOH=10:1) to give the title compound (55 mg, Yield 45% for two steps). ESI-MS (m/z): 578.3 [M+1]+.

reactant | 9-((3aR,4R,6R,6aR)-6-(((3-(aminomethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine | NCC1CC(C1)N(C)C[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)N | C19H29N7O3
reactant | 1-tert-butyl-4-isocyanatobenzene | 37 mg | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 1-((3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)methyl)-3-(4-(tert-butyl)phenyl)urea | 55 mg, Yield 45% | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CNC(=O)NC2=CC=C(C=C2)C(C)(C)C)C | C30H42N8O4
